US03941782
γ-Morpholinobutyric acid hydrobromide
15 g. (0.052 mole) of Methyl γ-morpholinobutyrate (Cruickshank and Sheehan, J. Am. Chem. Soc. 83, 2891 (1961)) was dissolved in a mixture of 45 ml. of 47% hydrobromic acid and 45 ml. of water and heated for 16 hours at reflux. The solution was taken to dryness under reduced pressure, and the solid which formed was triturated with acetone. The material was filtered and crystallized from 60 ml. of acetic acid to give 12.4 g. (95%) of product as colorless crystals, m.p. 151°-152.5°C. The infrared and nuclear magnetic resonance spectra were consistent with the proposed structure.

reactant | Methyl γ-morpholinobutyrate | 0.052 mole | O1CCN(CC1)CCCC(=O)OC | C9H17NO3
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | γ-Morpholinobutyric acid hydrobromide | Br.O1CCN(CC1)CCCC(=O)O | InChI=1S/C8H15NO3.BrH/c10-8(11)2-1-3-9-4-6-12-7-5-9;/h1-7H2,(H,10,11);1H
